US05607977
Preparation of N-(3,4,5-trichloro-phenyl)-N'-(2,6-difluorobenzoyl)-urea
A solution of 3,4,5-trichloro-phenyl isocyanate (22.3 g), 2,6-difluoro-benzamide (15.7 g) in toluene (200 ml) was heated for eight hours at 90°-95° C. The title compound slowly crystallized out of the initially clear solution and was isolated by suction filtration after cooling of the reaction mixture.

reactant | 3,4,5-trichloro-phenyl isocyanate | 22.3 g | ClC=1C=C(C=C(C1Cl)Cl)N=C=O | C7H2Cl3NO
reactant | 2,6-difluoro-benzamide | 15.7 g | FC1=C(C(=O)N)C(=CC=C1)F | C7H5F2NO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3,4,5-trichloro-phenyl)-N'-(2,6-difluorobenzoyl)-urea | ClC=1C=C(C=C(C1Cl)Cl)NC(=O)NC(C1=C(C=CC=C1F)F)=O | C14H7Cl3F2N2O2
